US07439260B2
Step 2: 7-[(5-sec-butyl-1,3-thiazol-2-yl)thio]-4-(4-fluorophenyl)-2H-chromen-2-one
Employing the procedure described in Example 1, Step 3, but using 7-bromo-4-(4-fluorophenyl)-2H-chromen-2-one, 5-sec-butyl-1,3-thiazole-2-thiol and K2CO3, the title compound was obtained. 1H NMR (400 MHz, acetone-d6): δ 7.58-7.67 (m, 3H), 7.52 (d, 1H), 7.46 (d, 1H), 7.32-7.42 (m, 3H), 6.38 (s, 1H), 3.08 (sextet, 1H), 1.83-1.67 (m, 2H), 1.32 (d, 3H), 0.89 (t, 3H).

reactant | 7-bromo-4-(4-fluorophenyl)-2H-chromen-2-one | BrC1=CC=C2C(=CC(OC2=C1)=O)C1=CC=C(C=C1)F | C15H8BrFO2
reactant | 5-sec-butyl-1,3-thiazole-2-thiol | C(C)(CC)C1=CN=C(S1)S | C7H11NS2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
product | 7-[(5-sec-butyl-1,3-thiazol-2-yl)thio]-4-(4-fluorophenyl)-2H-chromen-2-one | C(C)(CC)C1=CN=C(S1)SC1=CC=C2C(=CC(OC2=C1)=O)C1=CC=C(C=C1)F | C22H18FNO2S2
